US07884109B2
(R)-2-Chloro-N-(8-fluorochroman-4-yl)-5-nitropyrimidin-4-amine.
A solution of (R)-8-fluorochroman-4-amine hydrochloride (1.02 g) and DIEA (2.6 mL) in DCM (10 mL) was slowly added to a solution of 2,4-dichloro-5-nitropyrimidine (0.97 g) THF (25 mL) at −78° C. The reaction mixture was stirred for 30 min at −78° C. then allowed to warm to RT overnight. The reaction was quenched with the addition of sat. NH4Cl (1 mL), the solvent volume was reduced in vacuo, and the resulting mixture partition between EtOAc and water then separated. The crude material was purified via column chromatography, elution with 30% EtOAc/Hex gave the titled product (1.43 g). 1H-NMR (300 MHz, CDCl3) δ 9.1 (s, 1H), 8.6 (br d, 1H), 7.1-6.8 (m, 3H), 5.6 (dd, 1H), 4.4 (m 1H), 4.3 (m, 1H), 2.4 (m, 1H), 2.2 (m, 1H).

reactant | (R)-8-fluorochroman-4-amine hydrochloride | 1.02 g | Cl.FC=1C=CC=C2[C@@H](CCOC12)N
reactant | DIEA | 2.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichloro-5-nitropyrimidine | 25 mL, 0.97 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Chloro-N-(8-fluorochroman-4-yl)-5-nitropyrimidin-4-amine | 1.43 g | ClC1=NC=C(C(=N1)N[C@@H]1CCOC2=C(C=CC=C12)F)[N+](=O)[O-] | C13H10ClFN4O3
